US07754717B2
N-(2-iodopyrimidin-5-yl)-2-methyl-5-nitrobenzamide (60 mg, 0.156 mmol), 2-morpholinoethanamine (˜200 mg, 1.5 mmol), and DIEA (0.041 mL, 0.234 mmol) were taken up in IPA (2.5 mL) in a 16×100 mm resealable pyrex tube and heated at 70° C. for 4 h. The mixture was concentrated and purified by preparative TLC (2.5% MeOH/CH2Cl2) to afford 2-methyl-N-(2-(2-morpholinoethylamino)pyrimidin-5-yl)-5-nitrobenzamide.

reactant | N-(2-iodopyrimidin-5-yl)-2-methyl-5-nitrobenzamide | 0.156 mmol, 60 mg | IC1=NC=C(C=N1)NC(C1=C(C=CC(=C1)[N+](=O)[O-])C)=O | C12H9IN4O3
reactant | 2-morpholinoethanamine | 1.5 mmol, ˜200 mg | O1CCN(CC1)CCN | C6H14N2O
reactant | DIEA | 0.234 mmol, 0.041 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | IPA | 2.5 mL | CC(C)O | C3H8O
product | 2-methyl-N-(2-(2-morpholinoethylamino)pyrimidin-5-yl)-5-nitrobenzamide | CC1=C(C(=O)NC=2C=NC(=NC2)NCCN2CCOCC2)C=C(C=C1)[N+](=O)[O-] | C18H22N6O4
